US05776983
B. 1-[4-Phenylmethoxy-3-nitrophenyl]propene
To a stirred suspension of (ethyl)triphenylphosphonium bromide (63.3 g, 170.5 mmol) in 270 mL of dry THF under Ar at 20° C., was added 91 mL of 1.8M phenyllithium in 70% cyclohexane/Et2O solution (163 mmol). After 30 minutes the reaction was cooled to -78° C., and a solution of 4-phenylmethoxy-3-nitrobenzaldehyde (38.96 g, 151.6 mmol) in 138 mL of THF was added by cannula over 25 minutes. The reaction was maintained at -78° C. for 60 minutes and stirred at 20° C. overnight prior to addition of 400 mL hexane. The supernatant was decanted and the solids stirred twice with additional THF/hexane which was also decanted. After concentration of the combined supernatants, the title compound (11.33 g, 1:1 trans to cis ratio) was eluted from silica gel by 0% to 25% EtOAc/hexane.

reactant | phenyllithium | 1.8M, 91 mL | C1(=CC=CC=C1)[Li]
reactant | cyclohexane Et2O | 163 mmol | C1CCCCC1.CCOCC
reactant | 4-phenylmethoxy-3-nitrobenzaldehyde | 151.6 mmol, 38.96 g | C1(=CC=CC=C1)COC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C14H11NO4
reactant | hexane | 400 mL | CCCCCC | C6H14
catalyst | (ethyl)triphenylphosphonium bromide | 170.5 mmol, 63.3 g | [Br-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 270 mL | C1CCOC1 | C4H8O
solvent | THF | 138 mL | C1CCOC1 | C4H8O
product | 1-[4-Phenylmethoxy-3-nitrophenyl]propene | C1(=CC=CC=C1)COC1=C(C=C(C=C1)C=CC)[N+](=O)[O-] | C16H15NO3
